US09233985B2
A solution of 1-tert-butyl 3-methyl 4-oxopyrrolidine-1,3-dicarboxylate (48.65 g, 0.20 mol), allyl alcohol (300 mL), and dibutyltin oxide (5.0 g, 20 mmol) in anhydrous toluene (800 mL) was refluxed for 20 h under a Dean-Stark trap with portionwise removal of solvent (total of 200 mL) over the first 6 hours, followed by addition of more allyl alcohol (75 mL) at the end of the first 6 hours. The reaction mixture was concentrated, dissolved in minimal methylene chloride, and loaded onto a silica gel column (700 mL volume) and eluted with methylene chloride, 10%, then 15%, then 20% ethyl acetate/methylene chloride to afford 3-allyl 1-tert-butyl 4-oxopyrrolidine-1,3-dicarboxylate (48.6 g, 90%) as a pale pink oil (NMR and MS as above). This compound (48.47 g, 0.18 mol) was dissolved in anhydrous tetrahydrofuran (200 mL) and added to a stirred solution of Pd(PPh3)4 (4.16 g, 3.6 mmol) in anhydrous tetrahydrofuran (400 mL) under nitrogen, stirred for 4 h, and concentrated. The residue was dissolved in heptane and loaded onto a silica gel column (1000 mL volume) and eluted with 60:35:5 heptane/methylene chloride/ethyl acetate to afford tert-butyl 3-allyl-4-oxopyrrolidine-1-carboxylate (27.93, 69%) as a pale yellow oil (NMR and MS as above).

reactant | 1-tert-butyl 3-methyl 4-oxopyrrolidine-1,3-dicarboxylate | 0.20 mol, 48.65 g | O=C1C(CN(C1)C(=O)OC(C)(C)C)C(=O)OC | C11H17NO5
reactant | allyl alcohol | 300 mL | C(C=C)O | C3H6O
reactant | dibutyltin oxide | 20 mmol, 5.0 g | C(CCC)[Sn](CCCC)=O
reactant | allyl alcohol | 75 mL | C(C=C)O | C3H6O
solvent | toluene | 800 mL | C1(=CC=CC=C1)C | C7H8
product | 3-allyl 1-tert-butyl 4-oxopyrrolidine-1,3-dicarboxylate | 48.6 g, 90% | O=C1C(CN(C1)C(=O)OC(C)(C)C)C(=O)OCC=C | C13H19NO5
